US05475015
1-(2-Methoxy-5-trifluoromethylphenyl)-5-trifluoromethyl-1,3-dihydro-2H-benzimidazol-2-one.
To an ice cooled suspension of N-(2-ethoxycarbonylamino-4-trifluoromethylphenyl)-2-methoxy-5-trifluoromethylaniline (140 mmol, 59 g) in 200 ml absolute ethanol is added sodium (174 mmol, 4 g) and the mixture is stirred at 70° C. for four hours. When the reaction is completed the reaction mixture is poured into water which is acidified and the title compound is collected by filtration as white crystals, M.p. 226° C.

reactant | N-(2-ethoxycarbonylamino-4-trifluoromethylphenyl)-2-methoxy-5-trifluoromethylaniline | 140 mmol, 59 g | C(C)OC(=O)NC1=C(C=CC(=C1)C(F)(F)F)NC1=C(C=CC(=C1)C(F)(F)F)OC | C18H16F6N2O3
reactant | sodium | 174 mmol, 4 g | [Na] | Na
reactant | water | O | H2O
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(2-Methoxy-5-trifluoromethylphenyl)-5-trifluoromethyl-1,3-dihydro-2H-benzimidazol-2-one | COC1=C(C=C(C=C1)C(F)(F)F)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O | C16H10F6N2O2
